US08754054B2
To a −78° C. solution of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-9-imino-6a-methoxy-3-methyl-7,12,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (50 mg, 0.072 mmol) in THF (2 mL) was added a solution of 3-ethoxy-3-oxopropylzinc bromide in THF (0.5 M, 1.15 mL, 0.58 mmol) dropwise. The reaction mixture was stirred at −78° C. for 2 h, and then quenched with a saturated solution of ammonium chloride. The mixture was extracted with chloroform (3×10 mL). The combined organics were dried (Na2SO4), filtered and concentrated. The crude was purified by preparative TLC (silica gel, 85:15 chloroform/methanol) to afford (6R,6aS,14aR)-methyl 12-(3-ethoxy-3-oxopropyl)-1,6,8,12,14a-pentahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-9-imino-6a-methoxy-3-methyl-7,14-dioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (7 mg, 12%) as an orange solid and as a mixture of diastereomers: 1H NMR (500 MHz, CD3OD) δ 7.18 (s, 1H), 6.57 (s, 1H), 5.54 (s, 1H), 4.96 (s, 1H), 4.88-4.83 (m, 2H), 3.84 (s, 3H), 3.76 (s, 3H), 3.75-3.66 (m, 3H), 3.57 (s, 3H), 3.34 (s, 3H), 3.25-3.16 (m, 2H), 3.03 (t, J=9.0 Hz, 1H), 2.39 (s, 3H), 2.15-1.85 (m, 4H), 1.45-1.26 (m, 1H), 1.25 (d, J=5.5 Hz, 3H), 1.09 (t, J=7.0 Hz, 3H); MS (ESI+) m/z 799 (M+H); HPLC >99% (AUC), tR 10.04 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-9-imino-6a-methoxy-3-methyl-7,12,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.072 mmol, 50 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=N)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H36N2O14
reactant | 3-ethoxy-3-oxopropylzinc bromide | [Br-].C(C)OC(CC[Zn+])=O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.58 mmol, 0.5 M, 1.15 mL | C1CCOC1 | C4H8O
product | (6R,6aS,14aR)-methyl 12-(3-ethoxy-3-oxopropyl)-1,6,8,12,14a-pentahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-9-imino-6a-methoxy-3-methyl-7,14-dioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 7 mg, 12% | C(C)OC(CCC1(C(=CC(C=2C(=C3C([C@@]4([C@@H](CC5=C([C@@]4(C(C3=CC12)=O)O)C(=C(C(=C5)C)C(=O)OC)O)O)OC)=O)O)=N)N[C@H]5O[C@H]([C@@H]([C@H]([C@H]5OC)O)OC)C)O)=O | C39H46N2O16
